USRE028939
An ether solution of 3-formylamino-5-trifluoromethylindazole is added to 2.0 g. of lithium aluminum hydride in ether. The resulting mixture is refluxed for 16 hours. Ether is added, followed by water. The mixture is filtered and the filtrate is concentrated. The residue is recrystallized from benzene to give 3-methylamino-5-trifluoromethylindazole.

reactant | 3-formylamino-5-trifluoromethylindazole | C(=O)NC1=NNC2=CC=C(C=C12)C(F)(F)F | C9H6F3N3O
reactant | lithium aluminum hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | O | H2O
solvent | ether | CCOCC | C4H10O
product | 3-methylamino-5-trifluoromethylindazole | CNC1=NNC2=CC=C(C=C12)C(F)(F)F | C9H8F3N3
